US07576077B2
A solution of 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester (3.0 g, 11.8 mmol) and hydroxylamine hydrochloride (2.46 g, 35.4 mmol) in methanol (60 ml) was heated at 80° C. for 4 h. After cooling, the mixture was filtered and washed with cold methanol to afford 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethyl ester (2.0 g, 71%, white solid). 1H NMR (CDCl3) d (ppm): 7.82 (s, 1H), 7.72 (m, 1H), 7.47 (m, 2H), 4.03 (s, 3H). Mixture of both methyl and ethyl ester (mostly methyl).

reactant | 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester | 11.8 mmol, 3.0 g | C(C)OC(C(CC(=O)C1=CC(=CC=C1)Cl)=O)=O | C12H11ClO4
reactant | hydroxylamine hydrochloride | 35.4 mmol, 2.46 g | Cl.NO
solvent | methanol | 60 ml | CO | CH4O
product | 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid ethyl ester | 2.0 g, 71% | C(C)OC(=O)C1=NOC(=C1)C1=CC(=CC=C1)Cl | C12H10ClNO3
